US03996204
Various curing agents were added to aliquots of a toluene solution of the copolymer and cast as films on glass plates. The results were: (1) Small amounts of glacial acetic acid, levulinic acid, oxalic acid and isophthalic acid and 1,9-nonanedithiol gave films which were partially soluble and/or swelled by toluene. (2) Small amounts of oxalyl chloride and BF3.etherate caused the copolymer to swell and gel immediately while maleic anhydride caused the copolymer to gel slowly as the anhydride dissolved in the medium. (3) An epoxy resin derived from Bisphenol A and epichlorohydrin gave a film which was insoluble in toluene and had good tensile strength. (4) Phenylacetic acid likewise gave a toluene-insoluble film.

reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | BF3 | B(F)(F)F | BF3
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | Bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Phenylacetic acid | C1(=CC=CC=C1)CC(=O)O | C8H8O2
